US07122545B2
1.11 g 2-Bromoacetyl-3-methyl-benzothiophene and 0.56 g hexamethylenetetramine in 20 ml trichloromethane were stirred at room temperature for 16 hours. After addition of 15 ml diethylether the mixture was filtered. The solid residue was stirred at room temperature for 3 hours in a mixture of 15 ml methanol and 1.9 ml concentrated hydrochloric acid. The solvents were distilled off and the residue recrystallized from water to yield 0.90 g (93%) 2-amino-1-(3-methyl-benzo[b]thiophen-2-yl)-ethanone hydrochloride as off-white solid; MS (El): m/e=205 (M+, 40%), 175 (M-CH2NH2, 100%), 147 (M-COCH2NH2, 20%).

reactant | 2-Bromoacetyl-3-methyl-benzothiophene | 1.11 g | BrCC(=O)C=1SC2=C(C1C)C=CC=C2 | C11H9BrOS
reactant | hexamethylenetetramine | 0.56 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | diethylether | 15 ml | C(C)OCC | C4H10O
reactant | trichloromethane | 20 ml | ClC(Cl)Cl | CHCl3
product | 2-amino-1-(3-methyl-benzo[b]thiophen-2-yl)-ethanone hydrochloride | 0.90 g, 93% | Cl.NCC(=O)C1=C(C2=C(S1)C=CC=C2)C | InChI=1S/C11H11NOS.ClH/c1-7-8-4-2-3-5-10(8)14-11(7)9(13)6-12;/h2-5H,6,12H2,1H3;1H
